US09371280B2
In a 25 mL round-bottomed flask, 45% hydrogen bromide in acetic acid (10 mL, 794 μmol) was added. It was cooled down to 0° C., then 2-tert-butoxy-2-oxoethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate (580 mg, 794 μmol) was added as solid. After 30 min, the reaction mixture was concentrated, and water (50 mL) was added to the residue. It was extracted with methylene chloride (2×300 mL). The methylene chloride layers were combined, dried over anhydrous sodium sulfate, filtered and concentrated to give a crude product, which was purified by filtering through a short plug of silica gel to give 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid carboxymethyl ester as an off white solid (530 mg, 99% yield). LCMS (ES+) m/z calcd. for C33H32Cl2F2N3O6 [(M+H)+]: 674. found: 674.

reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 794 μmol, 10 mL | C(C)(=O)O | C2H4O2
reactant | 2-tert-butoxy-2-oxoethyl 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoate | 794 μmol, 580 mg | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)OCC(=O)OC(C)(C)C)C=C1)OC)F | C37H39Cl2F2N3O6
product | 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid carboxymethyl ester | C(=O)(O)COC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O | C33H31Cl2F2N3O6
